US06281227B1
C. 5-Pyridin-3-yl-thiophene-2-sulfonic acid-[1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide
Triethylamine (0.35 mL, 2.5 mmol) is added dropwise to a solution of 5-pyridin-3-yl-thiophene-2-sulfonyl chloride (0.22 g, 0.85 mmol) and 3-(S)-amino-1-(1-chloro-isoquinolin-7-ylmethyl)-pyrrolidin-2-one hydrochloride (0.22 g, 0.71 mmol) in CH3CN (5 mL). The suspension is stirred at room temperature overnight then concentrated to dryness. The residue is diluted with methylene chloride and washed with saturated NaHCO3 solution and brine. The organic layer is dried over MgSO4, filtered, concentrated, and then purified by column chromatography eluting with a gradient of 1% MeOH/CH2Cl2 to 5% MeOH/CH2Cl2 to give the product (0.23 g, 0.45 mmol) as a white solid.

reactant | Triethylamine | 2.5 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | 5-pyridin-3-yl-thiophene-2-sulfonyl chloride | 0.85 mmol, 0.22 g | N1=CC(=CC=C1)C1=CC=C(S1)S(=O)(=O)Cl | C9H6ClNO2S2
reactant | 3-(S)-amino-1-(1-chloro-isoquinolin-7-ylmethyl)-pyrrolidin-2-one hydrochloride | 0.71 mmol, 0.22 g | Cl.N[C@@H]1C(N(CC1)CC1=CC=C2C=CN=C(C2=C1)Cl)=O
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 5-Pyridin-3-yl-thiophene-2-sulfonic acid-[1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | 0.45 mmol, 0.23 g | ClC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C=1SC(=CC1)C=1C=NC=CC1)=O | C23H19ClN4O3S2
